US07915270B2
2-(2-(7-Phenylheptanoyl)oxazol-5-yl)nicotinic acid
The title compound was prepared from methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)nicotinate (8 mg, 0.020 mmol) following General Procedure E. Preparative thin layer chromatography (2% AcOH/EtOAc) yielded the title compound as a white solid (3 mg, 38%): 1H NMR (THF-d8, 600 MHz) δ 8.71 (d, 1H, J=4.8 Hz), 8.09 (d, 1H, J=7.8 Hz), 7.79 (s, 1H), 7.45-7.44 (m, 2H), 7.22-7.19 (m, 2H), 7.16-7.14 (m, 2H), 7.11-7.08 (m, 1H), 3.05 (t, 2H, J=7.8 Hz), 2.60 (t, 2H, J=7.2 Hz), 1.73-1.69 (m, 2H), 1.66-1.61 (m, 2H), 1.43-1.39 (m, 4H); 13C NMR (THF-d8, 150 MHz) δ 185.5, 165.6, 156.4, 150.9, 149.5, 142.7, 141.1, 135.7, 127.0, 126.7, 126.5, 125.9, 123.9, 121.9, 37.1, 24.3, 30.0, 27.6, 27.5, 22.2; MALDI-FTMS m/z 379.1646 (M+H+, C22H23N2O4, requires 379.1652).

reactant | methyl 2-(2-(7-phenylheptanoyl)oxazol-5-yl)nicotinate | 0.020 mmol, 8 mg | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=C(C(=O)OC)C=CC=N1 | C23H24N2O4
solvent | AcOH EtOAc | CC(=O)O.CCOC(=O)C
product | 2-(2-(7-Phenylheptanoyl)oxazol-5-yl)nicotinic acid | 3 mg, 38% | C1(=CC=CC=C1)CCCCCCC(=O)C=1OC(=CN1)C1=C(C(=O)O)C=CC=N1 | C22H22N2O4
